US08278442B2
6-(5-{[(2,2-Dimethylcyclopropylmethyl)amino]methyl]naphthalene-1-yloxy}nicotinamide
To a solution of 6-(5-formylnaphthalen-1-yloxy)nicotinamide (Preparation 35) (200 mg, 0.68 mmol) and (2,2-dimethylcyclopropyl)methylamine hydrochloride (111 mg, 0.82 mmol) in a 1:1 mixture of MeOH/DCM (12 mL) was added PS-diisopropylethylamine (3.66 mmol/g, 374 mg, 1.37 mmol) and the reaction was stirred at rt for 16 h. PS-borohydride (2 mmol/g, 1.03 g, 2.05 mmol) was added and the reaction was stirred for 30 min Water (0.5 mL) was added and the mixture purified through an SCX column (10 g/70 mL) eluting with 1% NH4OH in MeOH. Solvent was removed in vacuo and the residue was triturated with EtOAc to give the title compound: RT=2.60 min; m/z (ES+)=376.2 [M+H]+.

reactant | 6-(5-formylnaphthalen-1-yloxy)nicotinamide | 0.68 mmol, 200 mg | C(=O)C1=C2C=CC=C(C2=CC=C1)OC1=NC=C(C(=O)N)C=C1 | C17H12N2O3
reactant | (2,2-dimethylcyclopropyl)methylamine hydrochloride | 0.82 mmol, 111 mg | Cl.CC1(C(C1)CN)C
reactant | diisopropylethylamine | 1.37 mmol, 374 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | borohydride | 2.05 mmol, 1.03 g | [BH4-]
solvent | Water | 0.5 mL | O | H2O
solvent | MeOH DCM | 12 mL | CO.C(Cl)Cl
product | 6-(5-{[(2,2-Dimethylcyclopropylmethyl)amino]methyl]naphthalene-1-yloxy}nicotinamide | CC1(C(C1)CNCC1=C2C=CC=C(C2=CC=C1)OC1=NC=C(C(=O)N)C=C1)C | C23H25N3O2
